US08957064B2
Step 3: 2-(5-piperidin-4-yl-2H-[1,2,4]triazol-3-yl)-6-trifluoromethyl-pyridine hydrochloride salt
A mixture of 4-[5-(6-trifluoromethyl-pyridine-2-yl)-1H-[1,2,4]triazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester (3.26 g) and 4M HCl in dioxane (47 mL) was stirred at rt until the reaction was complete. The reaction was diluted with Et2O and stirred for 30 minutes. The solid was filtered, taken up in ACN and stirred for 15 minutes. The solid was filtered, dissolved in warm MeOH, cooled to 0° C. and triturated with Et2O. The resulting solid was filtered and dried to give the title compound.

reactant | 4-[5-(6-trifluoromethyl-pyridine-2-yl)-1H-[1,2,4]triazol-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 3.26 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NNC(=N1)C1=NC(=CC=C1)C(F)(F)F | C18H22F3N5O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 47 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | 2-(5-piperidin-4-yl-2H-[1,2,4]triazol-3-yl)-6-trifluoromethyl-pyridine hydrochloride salt | Cl.N1CCC(CC1)C=1N=C(NN1)C1=NC(=CC=C1)C(F)(F)F | InChI=1S/C13H14F3N5.ClH/c14-13(15,16)10-3-1-2-9(18-10)12-19-11(20-21-12)8-4-6-17-7-5-8;/h1-3,8,17H,4-7H2,(H,19,20,21);1H
